US05747517
Preparation of 5-[[4-[(4-acetyl-3-methoxy-2-propylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under nitrogen atmosphere in a round bottom flask 4-[(4-acetyl-3-methoxy-2-propylphenyl)methoxy]benzaldehyde (0.33 g, 1.01 mmol) was dissolved in 5 ml of acetic acid with stirring. To this solution was added sodium acetate (0.29 g, 3.53 mmol) followed by the addition of rhodanine (0.13 g, 0.98 mmol). The reaction mixture was heated to reflux. The progress of the reaction was monitored by thin layer chromatography. The reaction was allowed to reflux overnight.

reactant | 4-[(4-acetyl-3-methoxy-2-propylphenyl)methoxy]benzaldehyde | 1.01 mmol, 0.33 g | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=O)C=C1)CCC)OC | C20H22O4
reactant | sodium acetate | 3.53 mmol, 0.29 g | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 0.98 mmol, 0.13 g | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[(4-acetyl-3-methoxy-2-propylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O)CCC)OC | C23H23NO4S2
